US07157476B2
N-(4-cyano-1,2,5-oxadiazol-3-yl)-2,2,2-trifluoroacetamide:
To a suspension of 4-amino-1,2,5-oxadiazole-3-carbonitrile (0.50 g, 4.5 mmol) in 5 mL of CH2Cl2 was added DMAP (0.55 g, 0.45 mmol), followed by trifluoroacetic anhydride (0.71 mL, 5.0 mmol) under N2 atmosphere. The yellow solution was stirred at room temperature overnight. After 24 hours, the reaction mixture was poured into ice and extracted with diethyl ether (2×50 mL). The combined organic layer was dried over MgSO4 and concentrated to give a beige solid (0.64 g, 68%). 1H NMR (CDCl3, 500 MHz) δ 4.78 (s, 1H). Mass Spec. FIA MS 207.1(M+1).

reactant | 4-amino-1,2,5-oxadiazole-3-carbonitrile | 4.5 mmol, 0.50 g | NC=1C(=NON1)C#N | C3H2N4O
reactant | trifluoroacetic anhydride | 5.0 mmol, 0.71 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.45 mmol, 0.55 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4-cyano-1,2,5-oxadiazol-3-yl)-2,2,2-trifluoroacetamide | 0.64 g, 68% | C(#N)C=1C(=NON1)NC(C(F)(F)F)=O | C5HF3N4O2
